US05236957
7.07 g (0.066 mol) of glycine ethyl ester, hydrochloride are diluted in 200 ml of dry methanol and 3.32 g (0.053 mol) of sodium cyanoborohydride are added, while stirring under nitrogen. To this solution, 15 g (0.0608 mol) of 3-chlorobenzyloxybenzaldehyde are added in a single portion. Stirring is continued for 18 hours at room temperature, the mixture is evaporated to dryness and the crude residue chromatographed on silica gel (eluant: cyclohexane/ethyl acetate; 60/40). 6.8 g (34%) of [4-(3-chlorobenzyloxy)benzyl]amino acetic acid, ethyl ester are obtained (m.p. 114°-115° C. as hydrochloride). 3 g (0.0090 mol) of the above ester (free base) are heated in 70 ml of dimethylamine at 60° C. for 7 hours. The solution is allowed to stand overnight at room temperature, then evaporated and the residue is purified on silica gel (eluant: chloroform/methanol/30% NH4OH; 95/5/0.5) to afford 0.7 g (23%) of [4-(3-chlorobenzyloxy)benzyl]amino-N,N-dimethylacetamide, hydrochloride (m.p. 120°-125° C.). Analogously the following compounds can be obtained, starting from the corresponding ethyl esters:

reactant | glycine ethyl ester, hydrochloride | 0.066 mol, 7.07 g | Cl.C(C)OC(CN)=O
reactant | sodium cyanoborohydride | 0.053 mol, 3.32 g | C(#N)[BH3-].[Na+]
reactant | 3-chlorobenzyloxybenzaldehyde | 0.0608 mol, 15 g | ClC=1C(=C(C=O)C=CC1)OCC1=CC=CC=C1 | C14H11ClO2
solvent | methanol | 200 ml | CO | CH4O
product | [4-(3-chlorobenzyloxy)benzyl]amino acetic acid, ethyl ester | 6.8 g, 34% | ClC=1C=C(COC2=CC=C(CNCC(=O)OCC)C=C2)C=CC1 | C18H20ClNO3
